US05686492
a) 6-Fluoro-3-nitro-2-trifluoromethyl-benzoic acid
1.05 ml (23.3 mmol) of concentrated nitric acid (65%), which also was precooled to 0° C., is instilled in a solution of 17.5 ml of concentrated sulfuric acid and 2.5 g (12.0 mmol) of 2-fluoro-6-trifluoromethyl-benzoic acid, cooled to 0° C. It is allowed to stir for one more hour at 0° C. and then overnight at room temperature. It is then poured in a mixture of ice, water and dichloromethane, the organic phase is separated and the aqueous phase is extracted with dichloromethane. The organic solutions are combined, washed with saturated sodium chloride solution, dried on sodium sulfate and evaporated to dryness in a vacuum. The title compound is obtained in crystalline form.

reactant | nitric acid | 23.3 mmol, 1.05 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 17.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-fluoro-6-trifluoromethyl-benzoic acid | 12.0 mmol, 2.5 g | FC1=C(C(=O)O)C(=CC=C1)C(F)(F)F | C8H4F4O2
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-Fluoro-3-nitro-2-trifluoromethyl-benzoic acid | FC1=CC=C(C(=C1C(=O)O)C(F)(F)F)[N+](=O)[O-] | C8H3F4NO4
